US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[2-(3-cyanopropoxy)-3-pyridyl]ethyl]piperidine
200 mg of 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-(2-oxo-1,2-dihydro-3-pyridinyl)ethyl]piperidine obtained in Example 47,95 mg of γ-bromobutyronitrile and 169 mg of potassium carbonate were suspended in 5 ml of N,N-dimethylformamide, and the mixture was stirred at 60° C. for 4 hours. Ethyl acetate was added thereto, the resulting salt was filtered off, and the solvent was evaporated. The crude product was purified by NH form silica gel column chromatography (ethyl acetate:hexane=1:4), to give 77 mg of the title compound as a colorless oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-[2-(2-oxo-1,2-dihydro-3-pyridinyl)ethyl]piperidine | 200 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC=1C(NC=CC1)=O | C19H25N3O2
reactant | γ-bromobutyronitrile | 47,95 mg | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | 169 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-[2-[2-(3-cyanopropoxy)-3-pyridyl]ethyl]piperidine | 77 mg | COC1=NC=CC=C1CN1CCC(CC1)CCC=1C(=NC=CC1)OCCCC#N | C23H30N4O2
